US06211199B1
34.1 Synthesis of 2-(2-(t-butyldimethylsilyloxy)ethyl)-3-phenylpropionitrile
Combine 3-phenylpropionitrile (2.0 g, 15.25 mmol) and tetrahydrofuran (15 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of lithium bis(trimethylsilyl)amide (16.0 mL, 1 M in THF, 16.0 mmol). After 1 hour, add 2-(t-butyldimethylsilyloxy)ethyl iodide (4.58 g, 16.0 mmol). After the addition of 2-(t-butyldimethylsilyloxy)ethyl iodide is complete, warm slowly to ambient temperature over about 7 hours. Add water and extract twice with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 5% ethyl acetate/hexane to give the title compound: Rf=0.50 (silica gel, 10% ethyl acetate/hexane).

reactant | 3-phenylpropionitrile | 15.25 mmol, 2.0 g | C1(=CC=CC=C1)CCC#N | C9H9N
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 16.0 mmol, 1 M, 16.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(t-butyldimethylsilyloxy)ethyl iodide | 16.0 mmol, 4.58 g | [Si](C)(C)(C(C)(C)C)OCCI | C8H19IOSi
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-(2-(t-butyldimethylsilyloxy)ethyl)-3-phenylpropionitrile | [Si](C)(C)(C(C)(C)C)OCCC(C#N)CC1=CC=CC=C1 | C17H27NOSi
